US04937268
[2-[(6-Bromohexyl)oxy]ethoxy]benzene
2-Phenoxyethanol (2.76 g), 1,6-dibromohexane (14.6 g), TAB (1 g) and 50% sodium hydroxide (20 ml) were vigorously stirred for 21 h, added to water (100 ml) and extracted with diethyl ether (3×100 ml). The dried extract was evaporated and the residual colourless liquid (15 g) was purified by FCC eluting with cyclohexane followed by System A (1:1). Evaporation of the latter eluate gave the title compound (5.0 g) as a colourless liquid. T.l.c. (System A 1:1) Rf 0.6.

reactant | 2-Phenoxyethanol | 2.76 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | 1,6-dibromohexane | 14.6 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | [2-[(6-Bromohexyl)oxy]ethoxy]benzene | 5.0 g | BrCCCCCCOCCOC1=CC=CC=C1 | C14H21BrO2
